US04219449
The condensation of cyanoacetic acid and 4-formylcarane obtained via the Prins reaction of 3-carene as described in Annalen 613, p. 43 (1958), was carried out according to the procedure of Example 3A. Yield 73% of the isomeric mixture 3-(3,7,7-trimethylbicyclo [4.1.0]heptylidene-4)propanenitrile and 3-(3,7,7-trimethylbicyclo [4.1.0]heptyl-4)acrylonitrile, b.p. 99°-103° C. at 0.6 mm Hg, nD20 =1.4950, with metallic, woody, rosy odour.

reactant | cyanoacetic acid | C(#N)CC(=O)O | C3H3NO2
reactant | 4-formylcarane | C(=O)C1C(CC2C(C1)C2(C)C)C | C11H18O
product | 3-carene | C12CC(=CCC1C2(C)C)C | C10H16
